US07981888B2
ethyl 5-bromo-3-(3-ethoxy-3-oxopropyl)-1H-indole-2-carboxylate
To a mixture of 4-bromoaniline (3.44 g) in 5M aqueous HCl (12 mL) at 0° C. was added 2.5M NaNO2 (1.38 g) in water (20 mL). After the addition, 4.5M sodium acetate (9.23 g) in water (25 mL) was added, followed by 2-oxo-cyclopentanecarboxylic acid ethyl ester (3 mL). The mixture was stirred at 0° C. for 15 minutes, warmed to 19° C. over two hours, and extracted with dichloromethane. The extract was dried (MgSO4), filtered and concentrated. The concentrate was dissolved in 10% H2SO4 in ethanol (22 mL) and refluxed overnight, cooled to room temperature, quenched with water (0.4 L), and filtered.

reactant | 4-bromoaniline | 3.44 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | NaNO2 | 2.5M, 1.38 g | N(=O)[O-].[Na+]
reactant | sodium acetate | 4.5M, 9.23 g | C(C)(=O)[O-].[Na+]
reactant | 2-oxo-cyclopentanecarboxylic acid ethyl ester | 3 mL | C(C)OC(=O)C1C(CCC1)=O | C8H12O3
solvent | HCl | 5M, 12 mL | Cl | ClH
solvent | water | 20 mL | O | H2O
solvent | water | 25 mL | O | H2O
product | ethyl 5-bromo-3-(3-ethoxy-3-oxopropyl)-1H-indole-2-carboxylate | BrC=1C=C2C(=C(NC2=CC1)C(=O)OCC)CCC(=O)OCC | C16H18BrNO4
